US04612321
In 50 ml of acetonitrile was dissolved 2.3 g of N-methylbenzoylaminothioacetamide. In the solution was suspended 4.0 g of 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide. To the suspension was added while stirring 1.5 ml of triethylamine, followed by further stirring under reflux. The reaction solution was left standing for cooling, then the solvent was evaporated off. To the residue was added a saturated aqueous solution of sodium hydrogen carbonate. The mixture was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried, then, the solvent was evaporated off. The residue was purified by means of a silica-gel column chromatography (eluent: ethyl acetate) to give 3.2 g (yield 72%) of 2-(N-methylbenzoylaminomethyl)-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole.

reactant | N-methylbenzoylaminothioacetamide | 2.3 g | CNC(CNC(C1=CC=CC=C1)=O)=S | C10H12N2OS
reactant | 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide | 4.0 g | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(N-methylbenzoylaminomethyl)-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole | 3.2 g, yield 72% | CN(C(C1=CC=CC=C1)=O)CC=1SC(=C(N1)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | C24H21N3O2S
